US08044052B2
Synthesis of 4-(3-(5-(azetidin-1-yl)pyridin-2-yloxy)benzylidene)-N-(pyridin-3-yl)piperidine-1-carboxamide
To a solution of 5-(azetidin-1-yl)-2-(3-(piperidin-4-ylidenemethyl)phenoxy)pyridine (0.098 g, 0.304 mmol) in DMSO (2 mL) was added phenyl pyridin-3-ylcarbamate (0.065 g, 0.304 mmol) followed by triethylamine (0.049 mL, 0.354 mmol). The resulting mixture was stirred at RT for 12 h. The reaction mixture was diluted with water and extracted with EtOAc. The organic layer was dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (32% acetone/hexane) to give the title compound (0.099 g, 73.8% yield). 1H NMR (500 MHz, CDCl3): δ 8.62 (s, 1H), 8.23 (s, 1H), 8.17 (d, J=7.8 Hz, 1H), 7.45 (s, 1H), 7.28 (m, 2H), 7.09 (s, 1H), 6.93 (d, J=7.55 Hz, 1H), 6.88 (m, 3H), 6.80 (m, 1H), 6.37 (s, 1H), 3.87 (t, J=7.05 Hz, 4H), 3.62 (m, 2H), 3.51 (m, 2H), 2.57 (m, 2H), 2.39 (m, 4H); 13C NMR (125 MHz, CDCl3): δ 156.02, 155.42, 154.56, 145.26, 143.28, 140.75, 138.71, 137.58, 136.56, 130.88, 129.34, 127.80, 124.88, 124.01, 123.70, 123.09, 119.85, 117.62, 112.61, 53.85, 53.09, 45.71, 44.75, 35.75, 31.74, 29.71, 29.29, 29.16, 17.52; m/z (442.2, MH+); HPLC: 97.8%.

reactant | 5-(azetidin-1-yl)-2-(3-(piperidin-4-ylidenemethyl)phenoxy)pyridine | 0.304 mmol, 0.098 g | N1(CCC1)C=1C=CC(=NC1)OC1=CC(=CC=C1)C=C1CCNCC1 | C20H23N3O
reactant | phenyl pyridin-3-ylcarbamate | 0.304 mmol, 0.065 g | N1=CC(=CC=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
reactant | triethylamine | 0.354 mmol, 0.049 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(3-(5-(azetidin-1-yl)pyridin-2-yloxy)benzylidene)-N-(pyridin-3-yl)piperidine-1-carboxamide | 0.099 g, 73.8% yield | N1(CCC1)C=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)NC=2C=NC=CC2)C=CC1 | C26H27N5O2
